US08802665B2
(2S,4R)-4-(2-Chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(4-ethylpiperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide
To a solution of (2S,4R)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide (35.4 mg, 70 μmol) in THF (1.05 mL) was added at room temperature acetaldehyde (4.35 μL, 77.0 μmol), sodium triacetoxyborohydride (44.5 mg, 210 μmol) and acetic acid (8.01 μL, 140 μmol). The reaction was stirred at room temperature for 2 days. It was diluted with 1N aqueous sodium hydroxid solution and water and extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure. The residue was purified by preparative HPLC to yield the title compound as a white solid (7.4 mg, 20%). MS ISP (m/e): 534.2/536.3 (100/38) [(M+H)]+.

reactant | (2S,4R)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide | 70 μmol, 35.4 mg | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)N1CCNCC1)C(=O)NC1(CC1)C#N | C23H28ClN5O4S
reactant | acetaldehyde | 77.0 μmol, 4.35 μL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 210 μmol, 44.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 140 μmol, 8.01 μL | C(C)(=O)O | C2H4O2
solvent | THF | 1.05 mL | C1CCOC1 | C4H8O
solvent | sodium hydroxid | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | (2S,4R)-4-(2-Chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(4-ethylpiperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide | 7.4 mg, 20% | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)N1CCN(CC1)CC)C(=O)NC1(CC1)C#N | C25H32ClN5O4S
